US07572820B2
4-Chloro-2-(difluoromethyl)-1-{[5-(3,5-difluorophenyl)-1,2,4-oxadiazol-3-yl]methyl}-1H-indole-5-carbonitrile
To a solution of 4-chloro-2-(difluoromethyl)-1H-indole-5-carbonitrile (0.23 g, 1.0 mmol) in anhydrous MeCN (5 mL) was added Cs2CO3 (0.38 g, 1.15 mmol) and 3-(chloromethyl)-5-(3,5-difluorophenyl)-1,2,4-oxadiazole (0.27 g, 1.15 mmol). The mixture was heated in a sealed tube at 95° C., under N2, for 1 h. Upon cooling, the mixture was partitioned between EtOAc and water. The organic phase was washed with water and sat'd brine, dried (Na2SO4) and concentrated in vacuo. The residue was purified by flash chromatography (2-30% EtOAc-hexanes gradient) and the product was crystallized from CH2Cl2-hexanes to afford the title compound as a white solid (0.32 g, 77% yield): 1H NMR (400 MHz, acetone-d6) δ 7.91 (d, J=8.8 Hz, 1H), 7.74 (d, J=8.8 Hz, 1H), 7.70 (m, 2H), 7.45 (t, J=53.4 Hz, 1H), 7.42 (tt, J=9.0, 2.4 Hz, 1H), 7.20 (s, 1H), 5.95 (s, 2H); MS (ES) m/z 421 (M+1).

reactant | 4-chloro-2-(difluoromethyl)-1H-indole-5-carbonitrile | 1.0 mmol, 0.23 g | ClC1=C2C=C(NC2=CC=C1C#N)C(F)F | C10H5ClF2N2
reactant | Cs2CO3 | 1.15 mmol, 0.38 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 3-(chloromethyl)-5-(3,5-difluorophenyl)-1,2,4-oxadiazole | 1.15 mmol, 0.27 g | ClCC1=NOC(=N1)C1=CC(=CC(=C1)F)F | C9H5ClF2N2O
solvent | MeCN | 5 mL | CC#N | C2H3N
product | 4-Chloro-2-(difluoromethyl)-1-{[5-(3,5-difluorophenyl)-1,2,4-oxadiazol-3-yl]methyl}-1H-indole-5-carbonitrile | 0.32 g, 77% yield | ClC1=C2C=C(N(C2=CC=C1C#N)CC1=NOC(=N1)C1=CC(=CC(=C1)F)F)C(F)F | C19H9ClF4N4O
